US08097759B2
5-Bromo-N-(2,5-dimethoxyphenyl)-2-hydroxybenzamide (Compound No. 167)
Using 5-bromosalicylic acid and 2,5-dimethoxyaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2,5-dimethoxyaniline | COC1=C(N)C=C(C=C1)OC | C8H11NO2
product | 5-Bromo-N-(2,5-dimethoxyphenyl)-2-hydroxybenzamide | Yield: 39.7% | BrC=1C=CC(=C(C(=O)NC2=C(C=CC(=C2)OC)OC)C1)O | C15H14BrNO4
